US06326381B1
f) 1-Methyl-cyclohexanecarboxylic Acid {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydro-4H-pyridin-1-yl]-ethyl}-methyl-amide
Under a N2 atmosphere, a solution of {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydropyridine-1-yl]-ethyl}-methyl-amine (0.18 g, 0.49 mmole) and triethylamine (0.14 mL, 1.0 mmole) in dichloromethane (10 mL) was cooled to 0° C. To the solution, 1-methyl-1-cyclohexanecarboxylic acid chloride (0.10 g, 0.59 mmole) in 1 mL dichloromethane was added and the resulting mixture was stirred at 0° C. to room temperature (ice melt) overnight. The solvent was evaporated and the residue dissolved in EtOAc (50 mL) and water (50 mL). The layers were separated and the organics washed with water (50 mL), brine (25 mL) and dried over Na2SO4, filtered and concentrated. Flash chromatography (elution with 1:4 EtOAc-hexane) gave 0.13 g (55% yield) of the titled compound. An ethanolic solution of the product was heated to gentle reflux and 1 equivalent of fumaric acid in hot ethyl alcohol solution was added to afford the fumarate salt of the titled compound as a white solid. m.p. 146-151° C.

reactant | {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydropyridine-1-yl]-ethyl}-methyl-amine | 0.49 mmole, 0.18 g | C(C1=CC=CC=C1)[C@H](CN1CC=C(CC1)C1=C(C=CC(=C1)F)OC)NC | C22H27FN2O
reactant | triethylamine | 1.0 mmole, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-1-cyclohexanecarboxylic acid chloride | 0.59 mmole, 0.10 g | CC1(CCCCC1)C(=O)Cl | C8H13ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-Methyl-cyclohexanecarboxylic Acid {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-1,2,5,6-tetrahydro-4H-pyridin-1-yl]-ethyl}-methyl-amide | 0.13 g, 55% yield | C(C1=CC=CC=C1)[C@H](CN1CCC(CC1)C1=C(C=CC(=C1)F)OC)N(C(=O)C1(CCCCC1)C)C | C30H41FN2O2
